US07754744B2
Step 1: 6-(1-tert-Butoxycarbonyl-piperidin-4-ylamino)-4-trifluoromethyl-nicotinic acid methyl ester
A solution of 6-chloro-4-trifluoromethyl-nicotinic acid methyl ester (2.00 g, 8.35 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (2.01 g, 10.02 mmol, 1.2 equiv; commercially available) in anhydrous DMF (10 mL) was heated by microwave irradiation to 110° C. for 4 h. A solution of 1 M NaOH (100 mL) was added and the reaction mixture extracted with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4, concentrated by evaporation under reduced pressure and the crude material purified with column chromatography on silica eluting with a gradient of heptane/ethyl acetate (5:1→3:1) to yield 1.65 g (49%) of the title compound. 1H NMR (300 MHz, CDCl3): δ1.36-1.41 (m, 2H), 1.40 (s, 9H), 1.95-1.97 (m, 2H), 2.85-2.93 (m, 2H), 3.81 (s, 3H), 3.92-3.98 (m, 1H), 3.98-4.05 (m, 2H), 5.12 (d, J=8.1 Hz, 1H), 6.59 (s, 1H), 8.68 (s, 1H). 19F NMR (282 MHz, CDCl3): δ−62.38. MS (ISP): 404.5 [M+H]+.

reactant | 6-chloro-4-trifluoromethyl-nicotinic acid methyl ester | COC(C1=CN=C(C=C1C(F)(F)F)Cl)=O | C8H5ClF3NO2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | NaOH | 1 M, 100 mL | [OH-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-(1-tert-Butoxycarbonyl-piperidin-4-ylamino)-4-trifluoromethyl-nicotinic acid methyl ester | 1.65 g, 49% | COC(C1=CN=C(C=C1C(F)(F)F)NC1CCN(CC1)C(=O)OC(C)(C)C)=O | C18H24F3N3O4
